US04810719
N-(4-Methoxyphenyl)-5-methyl-1-phenyl-1H-pyrazol-3-amine
N-(4-Methoxyphenyl)-5-methyl-1H-pyrazol-3-amine (0.05 g) in dry dimethylformamide (1 ml) was added to a stirred suspension of sodium hydride (0.015 g of a 50% oil dispersion), freed from oil, in dimethylformamide (0.5 ml). After 10 minutes diphenyliodonium chloride (0.102 g) was added. After 16 hours the mixture was diluted with water and extracted with ethylacetate, which was then dried and evaporated. The resultant oil was chromatographed on silica with dichloromethane containing 3% ethyl acetate to give the title compound (0.002 g), the NMR, mass and IR spectra, and TLC behaviour, of which were identical to those of the compoud of Example 3.11.

reactant | N-(4-Methoxyphenyl)-5-methyl-1H-pyrazol-3-amine | 0.05 g | COC1=CC=C(C=C1)NC1=NNC(=C1)C | C11H13N3O
reactant | sodium hydride | [H-].[Na+]
reactant | diphenyliodonium chloride | 0.102 g | [Cl-].C1(=CC=CC=C1)[I+]C1=CC=CC=C1
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | N-(4-Methoxyphenyl)-5-methyl-1-phenyl-1H-pyrazol-3-amine | 0.002 g | COC1=CC=C(C=C1)NC1=NN(C(=C1)C)C1=CC=CC=C1 | C17H17N3O
